US04708955
Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(triphenylphosphoranylidene)methyl]-3-cephem-4-carboxylate (VII, R2a =CH3)
A solution of diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(triphenylphosphonio)methyl]-3-cephem-4-carboxylate iodide* (3.0 g, 2.5 m moles) in dichloromethane (40 ml) was shaken with 1N NaOH (10 ml) until the spot of the starting material disappeared on TLC (silica gel, CHCl3 --MeOH=10:1). Organic layer was separated and concentrated under reduced pressure. The residue was triturated with n-hexane and the product was collected by filtration to give 2.5 g (93%) of the title compound.

reactant | diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(triphenylphosphonio)methyl]-3-cephem-4-carboxylate iodide | [I-].C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC
reactant | NaOH | 1N, 10 ml | [OH-].[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | MeOH | CO | CH4O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(triphenylphosphoranylidene)methyl]-3-cephem-4-carboxylate | 2.5 g, 93% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C64H52N5O5PS2
